US04472405
A solid which was chiefly 1,2-dihydro-6-fluoro-5-hydroxymethylquinaldine (13.2 g) prepared according to Example 2 was dissolved in 300 ml of ethanol and 10 ml of concentrated hydrochloric acid. To this solution was added 1 g of 5% platinum on charcoal and 3 g of 5% palladium on charcoal. The solution was hydrogenated at 50 psi at about 20° C. on a Paar apparatus. After absorption of about 12 psi of hydrogen (the theoretical amount needed), the solution was filtered and the solvent was removed by evaporation to provide a solid. Nuclear magnetic resonance spectral analysis showed slightly incomplete reduction. Therefore the solid was dissolved in 300 ml of aqueous (95%) ethanol to which 2 g of platinum on charcoal was added, and the solution was hydrogenated at 50 psi on the Paar apparatus for about 16 hours. The solution was then filtered and the solvent was evaporated. The solid recovered was dissolved in 50 ml of water. This solution was basified with aqueous sodium hydroxide and then extracted with diethyl ether. Evaporation of the ether provided 6-fluoro-5-methyl-1,2,3,4-tetrahydroquinaldine as an oil.

reactant | 1,2-dihydro-6-fluoro-5-hydroxymethylquinaldine | 13.2 g | FC=1C(=C2C=CC(NC2=CC1)C)CO | C11H12FNO
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
catalyst | platinum on charcoal | 1 g | [Pt] | Pt
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
catalyst | platinum on charcoal | 2 g | [Pt] | Pt
product | 6-fluoro-5-methyl-1,2,3,4-tetrahydroquinaldine | FC=1C(=C2CCC(NC2=CC1)C)C | C11H14FN
